US08912210B2
Step C: (3S,5S,6R)-3-Amino-6-methyl-1-(2-methylpropyl)-5-phenylpiperidin-2-one
A solution of tert-butyl[(3S,5S,6R)-6-methyl-1-(2-methylpropyl)-2-oxo-5-phenylpiperidin-3-yl]carbamate (140 mg, 0.39 mmol) in ethyl acetate (10 mL), pre-cooled to 0° C. was sparged with HCl gas for ˜1 min. The ice-bath was removed and the acidic solution was allowed to warm to 23° C. as stirring was continued for 2 h. The mixture was then concentrated to dryness to afford the title compound as a hydrochloride salt. MS: m/z=261.3 (M+1).

reactant | tert-butyl[(3S,5S,6R)-6-methyl-1-(2-methylpropyl)-2-oxo-5-phenylpiperidin-3-yl]carbamate | 0.39 mmol, 140 mg | C(C)(C)(C)OC(N[C@@H]1C(N([C@@H]([C@@H](C1)C1=CC=CC=C1)C)CC(C)C)=O)=O | C21H32N2O3
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | (3S,5S,6R)-3-Amino-6-methyl-1-(2-methylpropyl)-5-phenylpiperidin-2-one | N[C@@H]1C(N([C@@H]([C@@H](C1)C1=CC=CC=C1)C)CC(C)C)=O | C16H24N2O
